US06861532B2
Cysteine, benzonitrile, and 5 equivalents of triethylamine were refluxed in ethanol for 6-8 hours to obtain a 66-70% yield of 2-phenylthiazoline-4-carboxylic acid. The 2-phenylthiazoline-4 carboxylic acid was reacted with 2.05 equivalents of base and 1 equivalent of methyl iodide in tetrahydrofuran at 0° C. to form 2-phenyl-4-methylthiazoline-4 carboxylic acid. The 2-phenyl-4-methylthiazoline-4 carboxylic acid can be resolved and isolated as the (S)-enantiomer using emulsion crystallization, and subsequently hydrolyzed with hydrochloric acid, thereby obtaining (S)-2-methylcysteine hydrochloride.

reactant | 2-phenylthiazoline-4 carboxylic acid | C1(=CC=CC=C1)C=1SCC(N1)C(=O)O | C10H9NO2S
reactant | methyl iodide | 1 equivalent | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-phenyl-4-methylthiazoline-4 carboxylic acid | C1(=CC=CC=C1)C=1SCC(N1)(C(=O)O)C | C11H11NO2S
